US05438147
Sodium γ-phthalimidobutanoyloxybenzenesulfonate
148.0 g (755 mmol) of anhydrous sodium phenolsulfonate and 190.0 g (755 mmol) of γ-phthalimidobutanoyl chloride are reacted in 200 g of xylene at 140° C. for 4 hours and the mixture is worked up as in Example 1. The crude product is recrystallized from methanol and the white crystalline product is dried at 40° C. under a water pump vacuum.

reactant | sodium phenolsulfonate | 755 mmol, 148.0 g | C1=CC=C(C(=C1)O)S(=O)(=O)[O-].[Na+]
reactant | γ-phthalimidobutanoyl chloride | 755 mmol, 190.0 g | C1(C=2C(C(N1C(CC(=O)Cl)C)=O)=CC=CC2)=O | C12H10ClNO3
solvent | xylene | 200 g | C=1(C(=CC=CC1)C)C | C8H10
product | Sodium γ-phthalimidobutanoyloxybenzenesulfonate | C1(C=2C(C(N1C(CC(=O)OC1=C(C=CC=C1)S(=O)(=O)[O-])C)=O)=CC=CC2)=O.[Na+] | InChI=1S/C18H15NO7S.Na/c1-11(19-17(21)12-6-2-3-7-13(12)18(19)22)10-16(20)26-14-8-4-5-9-15(14)27(23,24)25;/h2-9,11H,10H2,1H3,(H,23,24,25);/q;+1/p-1
